2162-02-18 09:33:00 Physician Attending Progress Note
Chief Complaint: acute on chronic hypercarbic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2162-2-17**] 12:02 PM
 INVASIVE VENTILATION - START [**2162-2-17**] 12:04 PM
 ARTERIAL LINE - START [**2162-2-17**] 05:08 PM
 BRONCHOSCOPY - At [**2162-2-17**] 06:15 PM
   Head CT negative
   CTA chest: no PE, LLL infiltrate more confluent compared with piror
   study, left pleural effusion slightly increased
   Off neo since ~5 am
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-2-17**] 08:10 PM
   Acyclovir - [**2162-2-18**] 04:09 AM
   Cefipime - [**2162-2-18**] 08:08 AM
   Vancomycin - [**2162-2-18**] 08:08 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2162-2-18**] 04:00 AM
   Midazolam (Versed) - [**2162-2-18**] 04:17 AM
   Heparin Sodium (Prophylaxis) - [**2162-2-18**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: No(t) NPO, Tube feeds
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2162-2-18**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.3
C (99.1
   HR: 96 (81 - 135) bpm
   BP: 117/77(92) {85/40(64) - 134/81(102)} mmHg
   RR: 24 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,454 mL
                                                                    533 mL
   PO:
             TF:
                                                                     19 mL
                                                                     40 mL
   IVF:
                                                                  2,336 mL
                                                                    493 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                    875 mL
   Urine:
                                                                  1,990 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    464 mL
                                                                   -342 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 294 (294 - 294) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 136
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   Compliance: 29.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/64/544/30/10
   Ve: 8.6 L/min
   PaO2 / FiO2: 1,360
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   130 K/uL
   83 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.3 mEq/L
   21 mg/dL
   101 mEq/L
   138 mEq/L
   31.8 %
   9.8 K/uL
        [image002.jpg]
                             [**2162-2-17**]  01:08 PM
                             [**2162-2-17**]  01:40 PM
                             [**2162-2-18**]  04:29 AM
   WBC
   11.0
   9.8
   Hct
   35.6
   31.8
   Plt
   135
   130
   Cr
   0.4
   0.4
   TropT
   0.02
   TCO2
   39
   Glucose
   168
   83
   Other labs: PT / PTT / INR:12.9/37.0/1.1, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:76/72, Alk Phos / T Bili:297/1.2,
   Differential-Neuts:75.0 %, Band:5.0 %, Lymph:14.0 %, Mono:3.0 %,
   Eos:2.0 %, Lactic Acid:1.3 mmol/L, LDH:332 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR:  No PTX, still with retrocardiac density, blunting L
   costophrenic angle
   Microbiology: Blood cultures: NGTD
   UCx: NGTD
   Assessment and Plan
 HYPOTENSION (NOT SHOCK): Likely secondary to intravascular voulme
   depletion, BP dropped when intubated on positive pressure.  Now
   resolved with IVFs and neo weaned off this morning.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) ON CHRONIC:  Patient with
   GVHD/BO and chronic LLL infiltrate treated broadly for bacterial
   processes with decompensation, possible mucus plugging vs. him tiring
   out as he had been working hard to breath for a number of days on the
   floor. Bronch yesterday notable for multiple small mucus plugs in LLL.
   Fluid sent for studies bacterial culture, fungal/AFB/modified AFB
   stain, viral/fungal/AFB cultures, and cytology.  Continues
   cefipime/vanco/levofloxicin.
 TREMORS:  Head CT negative. Not clinically consistent with fevers as
   he was responsive and able to follow commands during episodes when not
   sedated.  Will follwo for now.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2162-2-18**] 08:10 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   20 Gauge - [**2162-2-17**] 02:00 PM
   Arterial Line - [**2162-2-17**] 05:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2162-02-19 11:11:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic hypercarbic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2162-2-18**] 08:21 AM
   Tirial on PSV 18, not tolerated, tachycardic, tachypneic, desats to
   80's
   Back on Assist Control ventilation
   No secretions when suctioned
   No new culture data on BAL; all negative to date
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-2-18**] 09:42 PM
   Acyclovir - [**2162-2-19**] 04:04 AM
   Cefipime - [**2162-2-19**] 08:26 AM
   Vancomycin - [**2162-2-19**] 08:26 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2162-2-19**] 08:26 AM
   Heparin Sodium (Prophylaxis) - [**2162-2-19**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-2-19**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (96.9
   HR: 113 (83 - 130) bpm
   BP: 120/78(95) {74/50(59) - 132/85(103)} mmHg
   RR: 18 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,765 mL
                                                                    789 mL
   PO:
             TF:
                                                                    269 mL
                                                                     81 mL
   IVF:
                                                                  2,376 mL
                                                                    598 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    513 mL
   Urine:
                                                                  2,175 mL
                                                                    513 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    590 mL
                                                                    276 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 350) mL
   Vt (Spontaneous): 260 (260 - 260) mL
   PS : 18 cmH2O
   RR (Set): 0
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 160
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 96%
   ABG: 7.40/55/120/30/7
   Ve: 4.2 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : ), anterolaterally
   Abdominal: Bowel sounds present, Distended, rare BS
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed, opens eyes
   Labs / Radiology
   9.5 g/dL
   100 K/uL
   88 mg/dL
   0.3 mg/dL
   30 mEq/L
   4.2 mEq/L
   20 mg/dL
   102 mEq/L
   137 mEq/L
   30.4 %
   8.9 K/uL
        [image002.jpg]
                             [**2162-2-17**]  01:08 PM
                             [**2162-2-17**]  01:40 PM
                             [**2162-2-18**]  04:29 AM
                             [**2162-2-18**]  03:20 PM
                             [**2162-2-19**]  12:25 AM
                             [**2162-2-19**]  04:14 AM
                             [**2162-2-19**]  04:40 AM
   WBC
   11.0
   9.8
   8.9
   Hct
   35.6
   31.8
   30.4
   Plt
   135
   130
   100
   Cr
   0.4
   0.4
   0.3
   TropT
   0.02
   TCO2
   39
   36
   34
   35
   Glucose
   168
   83
   88
   Other labs: PT / PTT / INR:12.5/59.1/1.1, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:51/67, Alk Phos / T Bili:249/1.5,
   Differential-Neuts:85.0 %, Band:2.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, LDH:332 IU/L, Ca++:7.8 mg/dL, Mg++:2.0
   mg/dL, PO4:2.1 mg/dL
   Imaging: CXR:  ETT 4.6 cm above carina, no change in infilatrate behind
   the heart
   Microbiology: No new micro data
   Assessment and Plan
 HYPOTENSION (NOT SHOCK):  Hypovolemian, responsive to IVFs.
   Hemodynamically stable not requiring further fluid boluses overnight.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) ON CHRONIC HYPERCARBIC:
   All stains/smears/culutres from the BAL negative thus far. funal
   studies sent.  Doubt infectious etiology at this point.  Wil discuss
   with BMT team today about increasing steroids.  Distended abdomen may
   be contributing to restricitve component of repiratory failure.  Will
   hold tube feeds, put NGT to suction and will need to be restarted on
   TPN.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   20 Gauge - [**2162-2-17**] 02:00 PM
   Arterial Line - [**2162-2-17**] 05:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2162-02-21 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -metoprolol restarted at 12.5 mg PO BID
   -lactulose given to encourage bowel movements
   -[** **] was only -20 (should be at least 25) suggesting there is some
   restrictive defect preventing normal inspiratory pressures (perhaps
   combination of deconditioning, tight abdomen secondary to constipation,
   and some intrinsic lung defect)
   -Platelets on lower side, if continue to drop consider d/c vanc
   -clarify with GI about whether they want to do imaging study prior to
   extubation (last week they may have wanted ? MR enterography to
   evaluate small bowel) - hem onc feels it would be better to get such a
   study done before extubation b/c it was tricky for him to do it
   previously (couldnt lie still, trouble swallowing contrast)
   -At around 6 pm, started tiring:
   ABG: 7.25, 82, 93;
   so was switched back to AC
   -in PM was +200 and given ? overload on CXR was given 20 mg IV lasix
   -got PR bisacodyl in PM and began moving his bowels copiously by
   midnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-2-20**] 07:49 PM
   Cefipime - [**2162-2-20**] 07:49 PM
   Levofloxacin - [**2162-2-20**] 10:00 PM
   Acyclovir - [**2162-2-21**] 03:03 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2162-2-20**] 07:49 PM
   Famotidine (Pepcid) - [**2162-2-20**] 07:50 PM
   Heparin Sodium (Prophylaxis) - [**2162-2-20**] 11:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-2-21**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 68 (68 - 104) bpm
   BP: 135/85(106) {107/63(80) - 168/104(130)} mmHg
   RR: 18 (8 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 48.4 kg
   Height: 67 Inch
             Total In:
                                                                  2,587 mL
                                                                    600 mL
   PO:
             TF:
   IVF:
                                                                    947 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  2,930 mL
                                                                    705 mL
   Urine:
                                                                  2,930 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -343 mL
                                                                   -105 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (0 - 350) mL
   Vt (Spontaneous): 380 (340 - 380) mL
   PS : 14 cmH2O
   RR (Set): 18
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.44/53/107/35/10
   [**Year (2 digits) **]: -20 cmH2O
   Ve: 10.8 L/min
   PaO2 / FiO2: 268
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   89 K/uL
   8.9 g/dL
   165 mg/dL
   0.4 mg/dL
   35 mEq/L
   3.6 mEq/L
   23 mg/dL
   101 mEq/L
   141 mEq/L
   28.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2162-2-19**]  12:25 AM
                             [**2162-2-19**]  04:14 AM
                             [**2162-2-19**]  04:40 AM
                             [**2162-2-20**]  03:55 AM
                             [**2162-2-20**]  06:13 AM
                             [**2162-2-20**]  07:53 AM
                             [**2162-2-20**]  05:39 PM
                             [**2162-2-20**]  07:14 PM
                             [**2162-2-21**]  02:41 AM
                             [**2162-2-21**]  02:50 AM
   WBC
   8.9
   6.7
   6.5
   Hct
   30.4
   27.5
   28.4
   Plt
   100
   95
   89
   Cr
   0.3
   0.3
   0.4
   TCO2
   34
   35
   34
   35
   38
   34
   37
   Glucose
   88
   131
   165
   Other labs: PT / PTT / INR:12.1/38.7/1.0, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:58/67, Alk Phos / T Bili:317/1.0,
   Differential-Neuts:85.0 %, Band:2.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, LDH:248 IU/L, Ca++:8.0 mg/dL, Mg++:1.9
   mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: [**2-20**]:
   Retrocardiac opacity slightly increased and concerning for pneumonia,
   especially given the patient's history.
   Increased interstitial marking without enlargement of the cardiac
   silhouette
   is suggestive of noncardiogenic edema.
   .
   Abd US: IMPRESSION: Moderate-to-severe intra-abdominal ascites with
   largest pocket in
   right lower quadrant
   Assessment and Plan
   38M with NHL s/p alloBMT complicated by multi-organ GVHD and BO with
   severe baseline lung disease and CO2 retention, presenting with dyspnea
   and cough, now transfered to [**Hospital Unit Name 44**] for hypercarbic respiratory failure.
   .
   # Hypercarbic respiratory failure - pCO2 yesterday was 82 on pressure
   support; needed transition to assist with improvement in pCO2 to 55.
   Likely multifactorial secondary to progression of GVHD.  Although Low
   [**Hospital Unit Name **] (-20) could be from GVHD likely compounded by tense abdomen
   secondary to constipation and deconditioning.  Also being treated
   empirically for HAP.  Steroids have been increased per BMT 2 d ago.
   - continue methylprednisolone 50mg IV BID
   -Had several BM yesterday in response to laxatives; ensure continued
   bowel regimen to decrease tense abdomen
   -Also has significant ascites on US; can consider therapeutic
   paracentesis to remove fluid
   -Is and Os goal of -500 daily; if not reaching, rebolus with lasix
   -With bowel movements, can repeat [**Hospital Unit Name **], attempt to wean to pressure
   support as tolerated
   - Continue HAP tx w/ cefepime, vanc, levofloxacin pending final
   cultures negative; completes course on [**2-23**].
   - F/u on sputum cx, PCP, [**Name10 (NameIs) 1156**], MAC, nocardia
   .
   #Liver cirrhosis/ascites - Likely secondary to liver disease as
   manifestation of GVHD c/b portal HTN, esophageal varices, GI bleeds,
   now appears to have ascites.
   -Would consider therapeutic tap today to improve respiratory status as
   likely is contributing to restrictive defect
   -Given portal HTN and related complications, unclear if worsening
   respiratory status could be secondary to portopulmonary HTN (could not
   estimate PA pressures on last echo) or hepatopulmonary disease; if
   still no improvement in respiratory function could re-assess with echo
   to evaluate for PA pressures + bubble study to check for HPS.
   .
   # Elevated PTT
   PT normal.
   - continue  HSQ at 2500 TID
   .
   # Non-Hodgkin's lymphoma s/p allo BMT: Most recent PET scan with no
   evidence of recurrent disease and he remains in remission.
   -Monitor counts and toxicities
   - f/u BMT recs
   .
   # GVHD.
   - Respiratory/steroids as above.
   - PPx with bactrim DS and Acyclovir
   - BMT recs,
   .
   # Hypothyroidism.
   - Cont levothyroxine
   .
   # Gastric varices.
   - Restart BB as normotensive
   .
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2162-2-19**] 05:00 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   20 Gauge - [**2162-2-17**] 02:00 PM
   Arterial Line - [**2162-2-17**] 05:08 PM
   Prophylaxis:
   DVT: HSQ decreased to 2500 TID
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2162-2-20**] 04:59 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   20 Gauge - [**2162-2-17**] 02:00 PM
   Arterial Line - [**2162-2-17**] 05:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with Dr.
   [**Last Name (STitle) 11717**]
s above, including the assessment and plan. I would emphasize and
   add the following points:
   Events:
   Bowel regimen increased, now with good stool output.
   Changed from PSV to A/C after PCO2 to 82 in setting of decreased MV and
   somnolence, no apparent dyspnea / tachypnea.
   [**Last Name (STitle) **] of -20, checked x2
   Given additional lasix to run I/O negative.
   This AM, no new complaints.  Breathing comfortable, though complains of
   tube being uncomfortable.  Abd feels slightly better than yesterday.
   VS: T98.3, P70-100, BP100-160/80-100 on 100% A/C 350x18 / 40% / 10.
   I/O: -400cc
   Exam notable for very thin man in NAD, RRR S1 S2, lungs with few
   crackles posteriorly, abd tone still increased, +BS, no LE edema.
   Labs notable for WBC 6.5, Hct 28, Plt 89.  Bicarb 35.
   CXR reviewed with increased interstitial markings (stable),
   retrocardiac opacity (increased per read, seems stable to my eye).
   Meds notable for vanc, cefepime, levoflox, bactrim, cellcept, midaz /
   fent, acyclovir, metoprolol, solumedrol.
   38 y/o s/p BMT with GVHD with resp failure.
   Resp failure is multifactorial
 GVHD lungs with baseline FVC and FEV1
   just under 1L as of 1 month ago before acute illness, now with ?pna
   ?worsened GVHD, also low NIFs c/w neuromuscular weakness, abdominal
   distention from cirrhosis / ascites.
   Currently still requiring a high degree of vent support, failing on
   14/5, try again with PSV today.  Not a candidate for NIPPV.
   Unclear how much of current illness is reversible.   Will likely need
   to get to tolerate more hypoventilation (allow HCO3 and PCO2 to rise).
   Would consider initiating discussion re: tracheostomy.  In meantime
   continue with antibiotics and steroids in hopes of some improvement,
   diuresis and bowel regimen for ascites and abdominal distention.
   Etiology of low [**Name (NI) **] unclear, ?contribution of immunsuppressants,
   critical illness.  Continue to follow mechanics.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) **], MD
   on:[**2162-2-21**] 14:10 ------

2162-02-22 07:45:00 Physician Resident Progress Note
Chief Complaint: hypercarbic respiratory failure
   24 Hour Events:
   -Yesterday again placed on PSV 14/10 FIO2 .40 w/ less CO2 retention
   after several hours and did better than yesterday overall
   -As got closer to bedtime, tidal volumes started getting smaller and
   smaller, therefore was switched back to AC until AM when we plan to
   switch him back to PSV.
   -DC'd famotidine given persistent thrombocytopenia
   -BMT was again pushing for extubation
   Current vent settings:
   FiO2: 40
   PEEP: 10
   RR: 16
   TV: 350
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2162-2-21**] 06:54 PM
   Vancomycin - [**2162-2-21**] 07:53 PM
   Levofloxacin - [**2162-2-21**] 09:13 PM
   Acyclovir - [**2162-2-22**] 03:01 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2162-2-21**] 11:03 AM
   Famotidine (Pepcid) - [**2162-2-21**] 07:54 PM
   Heparin Sodium (Prophylaxis) - [**2162-2-21**] 11:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies CP, reports mild abdominal pain, no leg pain,
   no nausea or vomiting.  Had BM yesterday and overnight.
   Flowsheet Data as of  [**2162-2-22**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 81 (64 - 94) bpm
   BP: 131/82(101) {113/71(86) - 157/95(119)} mmHg
   RR: 17 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 48.4 kg
   Height: 67 Inch
             Total In:
                                                                  3,113 mL
                                                                    951 mL
   PO:
             TF:
                                                                    517 mL
                                                                    345 mL
   IVF:
                                                                    876 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                  3,100 mL
                                                                    410 mL
   Urine:
                                                                  3,100 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     13 mL
                                                                    541 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 330 (330 - 420) mL
   PS : 14 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 252
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   Compliance: 19.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.50/48/120/32/12
   NIF: -20 cmH2O
   Ve: 7.2 L/min
   PaO2 / FiO2: 300
   Physical Examination:
   Gen: cachectic appearing male.
   HEENT: patient intubated. PERRLA. no JVD. neck supple.
   Cards: RRR S1/S2 heard. no murmurs/gallops/rubs.
   Pulm: CTAB no crackles or wheezes.
   Abd: hypoactive BS, firm, NT. no g/rt.
   Extremities: wwp, no edema. DPs, PTs 2+.
   Neurologic:  Responds to commands, interactive. Responds to questions
   by writing answers.
   Labs / Radiology
   110 K/uL
   9.2 g/dL
   139 mg/dL
   0.3 mg/dL
   32 mEq/L
   4.1 mEq/L
   29 mg/dL
   100 mEq/L
   139 mEq/L
   28.6 %
   7.5 K/uL
        [image002.jpg]
                             [**2162-2-20**]  06:13 AM
                             [**2162-2-20**]  07:53 AM
                             [**2162-2-20**]  05:39 PM
                             [**2162-2-20**]  07:14 PM
                             [**2162-2-21**]  02:41 AM
                             [**2162-2-21**]  02:50 AM
                             [**2162-2-21**]  02:51 PM
                             [**2162-2-21**]  05:26 PM
                             [**2162-2-22**]  03:35 AM
                             [**2162-2-22**]  03:42 AM
   WBC
   6.5
   7.5
   Hct
   28.4
   28.6
   Plt
   89
   110
   Cr
   0.4
   0.3
   TCO2
   34
   35
   38
   34
   37
   40
   43
   39
   Glucose
   165
   139
   Other labs: PT / PTT / INR:12.1/38.7/1.0, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:86/101, Alk Phos / T Bili:308/1.0,
   Differential-Neuts:85.0 %, Band:2.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, LDH:263 IU/L, Ca++:8.7 mg/dL, Mg++:2.0
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   38M with NHL s/p alloBMT complicated by multi-organ GVHD and BO with
   severe baseline lung disease and CO2 retention, presented with dyspnea
   and cough on [**2162-2-4**], now day 5 in [**Hospital Unit Name 44**] for hypercarbic respiratory
   failure.
   .
   # Hypercarbic respiratory failure - Likely multifactorial secondary to
   progression of GVHD.  Although Low NIF (-20) could be from GVHD likely
   compounded by tense abdomen secondary to constipation and
   deconditioning.  Also being treated empirically for VAP.  Steroids have
   been increased per BMT 3 d ago.
   - continue methylprednisolone 50mg IV BID, although ?benefit given
   small likelihood that steroids are affecting pt
s course.
   -Ensure continued bowel regimen to decrease tense abdomen.
   -Also has significant ascites on US; can consider therapeutic
   paracentesis to remove fluid.
   -Is and Os goal of -500 daily; if not reaching, rebolus with lasix
   -With bowel movements, can repeat NIF, attempt to wean to pressure
   support as tolerated
   - Continue VAP tx w/ cefepime, vanc, levofloxacin; completes course on
   [**2-23**].
   - To date, sputum cx, PCP, [**Name10 (NameIs) 1156**], MAC, nocardia negative except for
   1000 mL of yeast on sputum culture. Follow-up final culture data.
   .
   # Acute respiratory alkalosis on chronic respiratory acidosis: on most
   recent ABG.
   - For vent settings, pt could benefit from decreased TV.
   - Will need to discuss goals of care with Dr. [**Last Name (STitle) 1750**] and patient, since
   high likelihood that patient will require tracheostomy in near future.
   - Will repeat ABG this PM.
   .
   #Liver cirrhosis/ascites - Likely secondary to liver disease as
   manifestation of GVHD c/b portal HTN, esophageal varices, now appears
   to have ascites.
   -Considered therapeutic tap to improve respiratory status as likely is
   contributing to restrictive defect, but US with only moderate ascities
   present.
   -Given portal HTN and related complications, unclear if worsening
   respiratory status could be secondary to portopulmonary HTN.
   -D/C TPN.
   .
   # Elevated PTT; PT normal.
   - continue  HSQ at 2500 TID
   .
   # Non-Hodgkin's lymphoma s/p allo BMT: Most recent PET scan with no
   evidence of recurrent disease and he remains in remission.
   -Monitor counts and toxicities
   - f/u BMT recs
   .
   # GVHD.
   - Respiratory/steroids as above.
   - PPx with bactrim DS and Acyclovir
   - BMT recs
   .
   # Hypothyroidism.
   - Cont levothyroxine
   .
   # Gastric varices.
   - Restarted BB (Metoprolol 12.5 mg [**Hospital1 **]) on [**2162-2-21**]; has remained
   normotensive
   .
   ICU Care
   Nutrition:
   D/C TPN w/ Lipids - [**2162-2-21**] 04:59 PM 62.5 mL/hour
   Nutren Pulmonary (Full) - [**2162-2-21**] 11:23 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   20 Gauge - [**2162-2-17**] 02:00 PM
   Arterial Line - [**2162-2-17**] 05:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until medically stable for transfer back to BMT.

2162-02-23 06:59:00 Physician Resident Progress Note
Chief Complaint: Low oxygen saturation at clinic
   Reason for MICU admission: hypercarbic respiratory failure
   24 Hour Events:
   - discussion with BMT: asked us to consult CT [**Doctor First Name 458**] for trach later this
   week
   - e-mailed GI [**Doctor Last Name **] re: placing peg tube at the same time & he said
   that CT surgery can do the PEG and the trach
   - plan to ask neuromuscular to see patient in re: inability to wean
   from vent
   - nursing concerned for some hematuria, but repeat Hct stable
   - also ordered U/A, urine culture & urine bk --> U/A with large amount
   of blood, no infection
   - off TPN on full tube feeds
   Vent settings:
   mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350
   Vt (Spontaneous): 350 (0 - 350) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 23
   PEEP: 8
   FiO2: 40
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2162-2-22**] 09:05 PM
   Vancomycin - [**2162-2-22**] 11:09 PM
   Levofloxacin - [**2162-2-22**] 11:44 PM
   Acyclovir - [**2162-2-23**] 02:59 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-2-22**] 11:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-2-23**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 86 (77 - 116) bpm
   BP: 101/90(94) {101/71(89) - 157/97(121)} mmHg
   RR: 13 (12 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 48.4 kg
   Height: 67 Inch
             Total In:
                                                                  3,039 mL
                                                                    216 mL
   PO:
             TF:
                                                                  1,061 mL
                                                                     77 mL
   IVF:
                                                                    876 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    720 mL
   Urine:
                                                                  1,710 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,329 mL
                                                                   -504 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 350 (0 - 350) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 203
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 24.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/47/89.[**Numeric Identifier 128**]/33/8
   NIF: -24 cmH2O
   Ve: 6.1 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Gen: cachectic appearing male.
   HEENT: patient intubated. PERRLA. no JVD. neck supple.
   Cards: RRR S1/S2 heard. no murmurs/gallops/rubs.
   Pulm: CTAB no crackles or wheezes.
   Abd: hypoactive BS, firm, NT. no g/rt.
   Extremities: wwp, no edema. DPs, PTs 2+.
   Neurologic:  Responds to commands, interactive. Responds to questions
   by writing answers.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   129 K/uL
   10.0 g/dL
   141 mg/dL
   0.3 mg/dL
   33 mEq/L
   4.8 mEq/L
   27 mg/dL
   100 mEq/L
   139 mEq/L
   31.5 %
   11.3 K/uL
        [image002.jpg]
                             [**2162-2-20**]  07:14 PM
                             [**2162-2-21**]  02:41 AM
                             [**2162-2-21**]  02:50 AM
                             [**2162-2-21**]  02:51 PM
                             [**2162-2-21**]  05:26 PM
                             [**2162-2-22**]  03:35 AM
                             [**2162-2-22**]  03:42 AM
                             [**2162-2-22**]  09:17 PM
                             [**2162-2-23**]  03:42 AM
                             [**2162-2-23**]  03:52 AM
   WBC
   6.5
   7.5
   11.3
   Hct
   28.4
   28.6
   31.9
   31.5
   Plt
   89
   110
   129
   Cr
   0.4
   0.3
   0.3
   TCO2
   34
   37
   40
   43
   39
   35
   Glucose
   165
   139
   141
   Other labs: PT / PTT / INR:11.9/35.7/1.0, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:126/135, Alk Phos / T Bili:351/1.2,
   Differential-Neuts:94.0 %, Band:1.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:318 IU/L, Ca++:9.2
   mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Date   6  Specimen  Tests  Ordered By
   [**2162-2-22**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2162-2-21**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2162-2-20**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST}
   INPATIENT
   [**2162-2-17**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Culture-FINAL; Respiratory Viral Antigen Screen-FINAL INPATIENT
   [**2162-2-17**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Culture-FINAL; Respiratory Viral Antigen Screen-FINAL INPATIENT
   [**2162-2-17**]  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL {YEAST}; LEGIONELLA CULTURE-PRELIMINARY; POTASSIUM
   HYDROXIDE PREPARATION-FINAL; Immunoflourescent test for Pneumocystis
   jirovecii (carinii)-FINAL; [**Year (4 digits) **] CULTURE-PRELIMINARY {YEAST}; ACID
   FAST SMEAR-FINAL; ACID FAST CULTURE-PRELIMINARY; VIRAL CULTURE: R/O
   CYTOMEGALOVIRUS-PRELIMINARY INPATIENT
   CXR [**2162-2-23**]: Increased opacity at R hilum
   Assessment and Plan:
   38M with NHL s/p alloBMT complicated by multi-organ GVHD and BO with
   severe baseline lung disease and CO2 retention, presented with dyspnea
   and cough on [**2162-2-4**], now day 6 in [**Hospital Unit Name 44**] for hypercarbic respiratory
   failure.
   .
   # Hypercarbic respiratory failure - Likely multifactorial secondary to
   progression of GVHD, bronchiolitis obliterans.  Although Low NIF (-20)
   could be from GVHD likely compounded by tense abdomen secondary to
   constipation and deconditioning.  Also being treated empirically for
   VAP.  Steroids have been increased per BMT 4 d ago.
   - continue methylprednisolone 50mg IV BID, consider decreasing dose as
   unclear benefit
   -Ensure continued bowel regimen to decrease tense abdomen.
   -Also has significant ascites on US; can consider therapeutic
   paracentesis to remove fluid.
   -Is and Os goal of -500 daily; if not reaching, rebolus with lasix
   -With bowel movements, can repeat NIF, attempt to wean to pressure
   support as tolerated
   - stop VAP tx today, day [**8-1**]
   - To date, sputum cx, PCP, [**Name10 (NameIs) 1156**], MAC, nocardia negative except for
   1000 mL of yeast on sputum culture. Follow-up final culture data.
   - Plan for tracheostomy this week, consult thoracic surgery
   .
   # Acute respiratory alkalosis on chronic respiratory acidosis: on most
   recent ABG.
   - For vent settings, pt could benefit from decreased TV.
   - Will need to discuss goals of care with Dr. [**Last Name (STitle) 1750**] and patient, since
   high likelihood that patient will require tracheostomy in near future.
   .
   #Liver cirrhosis/ascites - Likely secondary to liver disease as
   manifestation of GVHD c/b portal HTN, esophageal varices, now appears
   to have ascites.
   -Considered therapeutic tap to improve respiratory status as likely is
   contributing to restrictive defect, but US with only moderate ascities
   present.
   - continue to diurese
   -Given portal HTN and related complications, unclear if worsening
   respiratory status could be secondary to portopulmonary HTN.
   .
   # Elevated PTT; PT normal.
   - continue  HSQ at 2500 TID
   .
   # Non-Hodgkin's lymphoma s/p allo BMT: Most recent PET scan with no
   evidence of recurrent disease and he remains in remission.
   -Monitor counts and toxicities
   - f/u BMT recs
   .
   # GVHD.
   - Respiratory/steroids as above.
   - PPx with bactrim DS and Acyclovir
   - BMT recs
   .
   # Hypothyroidism.
   - Cont levothyroxine
   .
   # Gastric varices.
   - Restarted BB (Metoprolol 12.5 mg [**Hospital1 **]) on [**2162-2-21**]; has remained
   normotensive
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2162-2-21**] 11:23 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   20 Gauge - [**2162-2-17**] 02:00 PM
   Arterial Line - [**2162-2-17**] 05:08 PM
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until medically stable for transfer back to BMT.

2162-02-24 10:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -CT surgery in to see patient and plans for trach/PEG on Friday [**2-26**]
   -Sputum culture sent with concern for increased sputum
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-2-23**] 08:52 PM
   Levofloxacin - [**2162-2-23**] 10:05 PM
   Acyclovir - [**2162-2-24**] 04:00 AM
   Cefipime - [**2162-2-24**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2162-2-23**] 01:04 PM
   Heparin Sodium (Prophylaxis) - [**2162-2-24**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2162-2-24**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 89 (72 - 99) bpm
   BP: 136/88(108) {100/65(80) - 148/94(116)} mmHg
   RR: 24 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 48.4 kg
   Height: 67 Inch
             Total In:
                                                                  1,632 mL
                                                                    527 mL
   PO:
             TF:
                                                                    543 mL
                                                                    320 mL
   IVF:
                                                                    908 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  3,095 mL
                                                                    770 mL
   Urine:
                                                                  3,095 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,463 mL
                                                                   -243 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 333 (333 - 333) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 205
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.48/51/104/35/12
   Ve: 6 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   137 K/uL
   184 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.3 mEq/L
   27 mg/dL
   98 mEq/L
   141 mEq/L
   30.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2162-2-21**]  02:50 AM
                             [**2162-2-21**]  02:51 PM
                             [**2162-2-21**]  05:26 PM
                             [**2162-2-22**]  03:35 AM
                             [**2162-2-22**]  03:42 AM
                             [**2162-2-22**]  09:17 PM
                             [**2162-2-23**]  03:42 AM
                             [**2162-2-23**]  03:52 AM
                             [**2162-2-24**]  03:43 AM
                             [**2162-2-24**]  05:08 AM
   WBC
   7.5
   11.3
   8.3
   Hct
   28.6
   31.9
   31.5
   30.0
   Plt
   110
   129
   137
   Cr
   0.3
   0.3
   0.4
   TCO2
   37
   40
   43
   39
   35
   39
   Glucose
   139
   141
   184
   Other labs: PT / PTT / INR:12.8/38.1/1.1, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:128/110, Alk Phos / T Bili:310/1.3,
   Differential-Neuts:84.0 %, Band:3.0 %, Lymph:5.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:255 IU/L, Ca++:8.8
   mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR-Significant evolution of LLL collapse on [**2-23**] when compared
   with 2/28 film
   Microbiology: No new culture data
   Assessment and Plan
   38 yo male with NHL now s/p BMT complicated by GVHD now with persistent
   respiratory failure and pneumonia with plans for tracheostomy for
   [**2162-2-26**]
   1)Respiratory Failure-Concern was raised for possible evolution of
   pneumonia with worsening LLL consolidation and elevation in WBC count
   which may have been transient.  We do have significant and persistent
   issue with hypercarbic respiratory failure and requirement for
   prolonged ventilator support.  This is secondary to OB from GVHD,
   pneumonia and co-contribution from diaphragmatic weakness with NIF
   consistently decreased
   -Cefepime/Levoflox
are at 20 days at this time and will D/C given
   clinical stability across time
   -Bactrim TIW
   -Acyclovir 400mg q 8 hours
   -Trial in SBT today and continue with full support at night.  Will
   check ABG at completion of SBT for evaluation
   -Continue diuresis
   2)GVHD-Substantial and BMT team to guide dosing of medications
   Mycophenilate Mofetil/Methylpred 30mg q 12 hours
   3)Lymphoma-
   -BMT completed
   -GVHD complication to be supported with medicaiton intervention and
   support of respiratory failure as above.
   - ANXIETY
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ANEMIA, OTHER
 DEPRESSION
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2162-2-23**] 10:33 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   Arterial Line - [**2162-2-17**] 05:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2162-03-01 10:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Less sob this am
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2162-2-27**] 03:47 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-2-28**] 11:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, Rash, GVHD
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2162-3-1**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.6
C (96.1
   HR: 101 (94 - 135) bpm
   BP: 135/86(97) {107/62(75) - 144/103(111)} mmHg
   RR: 22 (16 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58 kg (admission): 48.4 kg
   Height: 67 Inch
                  Total In:
                                                                    740 mL
                                                                    400 mL
   PO:
                                                                    240 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    175 mL
   Urine:
                                                                    550 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    190 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///40/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, No(t) Distant, Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   197 K/uL
   122 mg/dL
   0.3 mg/dL
   40 mEq/L
   4.3 mEq/L
   15 mg/dL
   94 mEq/L
   141 mEq/L
   35.9 %
   17.6 K/uL
        [image002.jpg]
                             [**2162-2-25**]  04:50 AM
                             [**2162-2-25**]  09:38 PM
                             [**2162-2-26**]  02:28 AM
                             [**2162-2-26**]  02:22 PM
                             [**2162-2-27**]  04:49 AM
                             [**2162-2-27**]  12:00 PM
                             [**2162-2-28**]  05:04 AM
                             [**2162-2-28**]  12:00 PM
                             [**2162-2-28**]  06:00 PM
                             [**2162-3-1**]  04:42 AM
   WBC
   9.4
   13.1
   13.5
   17.6
   Hct
   30.3
   33.7
   35.8
   35.9
   Plt
   156
   164
   184
   197
   Cr
   0.4
   0.4
   0.3
   0.3
   TCO2
   38
   42
   43
   Glucose
   108
   134
   151
   115
   101
   159
   122
   Other labs: PT / PTT / INR:13.5/43.9/1.2, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:100/68, Alk Phos / T Bili:294/1.4,
   Differential-Neuts:96.0 %, Band:2.0 %, Lymph:1.0 %, Mono:0.0 %, Eos:0.0
   %, Lactic Acid:0.7 mmol/L, Albumin:3.3 g/dL, LDH:318 IU/L, Ca++:9.0
   mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ANXIETY
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ANEMIA, OTHER
 DEPRESSION
   He is sl better today. Still extremely SOB with min exertion but is
   somewhat better than over weekend.  WBC is up today and we are
   culturing broadly. Will continue to monitor intake - may need feeding
   tube if he is unable to maintain calories.  We are trying to initiate
   PT if he is more stable today.
   ICU Care
   Nutrition:
   Comments: full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2162-03-02 11:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Off vent
   24 Hour Events:
 ULTRASOUND - At [**2162-3-1**] 03:00 PM
   Bilateral LE Dopplers
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2162-3-1**] 07:49 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-3-1**] 11:02 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2162-3-2**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 118 (90 - 127) bpm
   BP: 107/80(86) {98/68(75) - 144/101(108)} mmHg
   RR: 26 (19 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58 kg (admission): 48.4 kg
   Height: 67 Inch
             Total In:
                                                                  1,160 mL
                                                                    510 mL
   PO:
                                                                  1,160 mL
                                                                    460 mL
   TF:
   IVF:
   50 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                    675 mL
   Urine:
                                                                    775 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    385 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///40/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t) Bronchial:
   , No(t) Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: GVH, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   208 K/uL
   143 mg/dL
   0.4 mg/dL
   40 mEq/L
   4.6 mEq/L
   14 mg/dL
   92 mEq/L
   138 mEq/L
   34.7 %
   22.2 K/uL
        [image002.jpg]
                             [**2162-2-25**]  09:38 PM
                             [**2162-2-26**]  02:28 AM
                             [**2162-2-26**]  02:22 PM
                             [**2162-2-27**]  04:49 AM
                             [**2162-2-27**]  12:00 PM
                             [**2162-2-28**]  05:04 AM
                             [**2162-2-28**]  12:00 PM
                             [**2162-2-28**]  06:00 PM
                             [**2162-3-1**]  04:42 AM
                             [**2162-3-2**]  02:48 AM
   WBC
   9.4
   13.1
   13.5
   17.6
   22.2
   Hct
   30.3
   33.7
   35.8
   35.9
   34.7
   Plt
   156
   164
   184
   197
   208
   Cr
   0.4
   0.4
   0.3
   0.3
   0.4
   TCO2
   42
   43
   Glucose
   108
   134
   151
   115
   101
   159
   122
   143
   Other labs: PT / PTT / INR:13.2/32.6/1.1, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:98/68, Alk Phos / T Bili:296/1.5,
   Differential-Neuts:91.0 %, Band:3.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:1.1 mmol/L, Albumin:3.3 g/dL, LDH:397 IU/L, Ca++:8.9
   mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 LEUKOCYTOSIS
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ANEMIA, OTHER
 DEPRESSION
   WBC is climbing but we have no clear source.  Resp sx are really at
   baseline - no change in cough.  His plt ct is rising with WBC raising ?
   of whether this is a non-specific response rather than infection.
   Nutrition remains an issue - calorie cts on going but he is taking pos
   poorly.
   ICU Care
   Nutrition:
   Comments: full
   Glycemic Control:
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2162-03-07 12:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2162-3-6**] 02:51 PM
   -Modest improvement in oxygenation following bronchoscopy
   -Persistent ventilator requirements through to today.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2162-3-5**] 08:08 AM
   Acyclovir - [**2162-3-5**] 08:48 PM
   Voriconazole - [**2162-3-6**] 08:00 PM
   Metronidazole - [**2162-3-7**] 03:00 AM
   Cefipime - [**2162-3-7**] 06:00 AM
   Vancomycin - [**2162-3-7**] 08:23 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 30 mcg/hour
   Other ICU medications:
   Fentanyl - [**2162-3-6**] 02:40 PM
   Midazolam (Versed) - [**2162-3-6**] 02:43 PM
   Pantoprazole (Protonix) - [**2162-3-7**] 08:28 AM
   Heparin Sodium (Prophylaxis) - [**2162-3-7**] 08:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2162-3-7**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.4
C (97.5
   HR: 93 (83 - 125) bpm
   BP: 102/62(76) {92/57(70) - 125/80(95)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.3 kg (admission): 48.4 kg
   Height: 67 Inch
             Total In:
                                                                  2,780 mL
                                                                    948 mL
   PO:
             TF:
                                                                  1,066 mL
                                                                    358 mL
   IVF:
                                                                  1,573 mL
                                                                    590 mL
   Blood products:
   Total out:
                                                                  4,215 mL
                                                                    500 mL
   Urine:
                                                                  4,215 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,435 mL
                                                                    448 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 351) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.2 cmH2O/mL
   SpO2: 98%
   ABG: 7.40/69/106/40/14
   Ve: 5.5 L/min
   PaO2 / FiO2: 212
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   143 K/uL
   106 mg/dL
   0.3 mg/dL
   40 mEq/L
   4.5 mEq/L
   18 mg/dL
   96 mEq/L
   140 mEq/L
   30.2 %
   9.0 K/uL
        [image002.jpg]
                             [**2162-3-5**]  03:25 AM
                             [**2162-3-5**]  08:30 PM
                             [**2162-3-6**]  03:15 AM
                             [**2162-3-6**]  03:41 AM
                             [**2162-3-6**]  12:20 PM
                             [**2162-3-6**]  02:10 PM
                             [**2162-3-6**]  04:09 PM
                             [**2162-3-6**]  05:27 PM
                             [**2162-3-7**]  04:06 AM
                             [**2162-3-7**]  04:13 AM
   WBC
   8.4
   10.7
   9.0
   Hct
   26.0
   32.3
   30.2
   Plt
   139
   167
   143
   Cr
   0.4
   0.5
   0.4
   0.4
   0.3
   TCO2
   43
   47
   46
   46
   44
   Glucose
   132
   114
   142
   119
   106
   Other labs: PT / PTT / INR:12.8/34.5/1.1, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:62/52, Alk Phos / T Bili:282/1.1,
   Differential-Neuts:77.0 %, Band:2.0 %, Lymph:15.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:292 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR-
   Microbiology: NGTD
   BAL [**3-4**]--GNR's x2 on gram stain
ESBL found on culture
   Assessment and Plan
   38 yo male s/p BMT with persistent respiratory failure and plans for
   tracheostomy through to [**2162-3-8**].
   1)Respiratory Failure-
   -Vanco/Cefepime/Flagyl/Voriconazole and will have to refine based upon
   culture results seen from bronchoscopy and today will move to
   Vanco/[**Last Name (un) **]/Voriconazole and discuss with ID team
   -Albuterol MDI's/Atrovent
   -Obliterative Bronchiolitis-Mycophenilate Mofetil,
   Solumedrol-->Prednisone 30mg q am.
   -Tracheostomy tomorrow via Thoracic surgery and plans for bedside
   tracheostomy
   -Continue with A/C support
   2)BMT-
   -Will continue to Rx with MMF and Solumdrol for the component of
   obliterative bronchiolotis
   ICU Care
   Nutrition: Discussion as to PEG tube placement held due to concern with
   ascites and will continue with NGT for now.
   Glycemic Control:
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   Arterial Line - [**2162-3-3**] 10:14 PM
   20 Gauge - [**2162-3-3**] 10:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2162-03-08 11:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -PEEP maintained at 5 cm H2O
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2162-3-5**] 08:48 PM
   Metronidazole - [**2162-3-7**] 03:00 AM
   Cefipime - [**2162-3-7**] 06:00 AM
   Voriconazole - [**2162-3-7**] 08:00 PM
   Meropenem - [**2162-3-8**] 06:00 AM
   Vancomycin - [**2162-3-8**] 08:19 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 30 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-3-8**] 08:19 AM
   Heparin Sodium (Prophylaxis) - [**2162-3-8**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, rare
   Flowsheet Data as of  [**2162-3-8**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.8
C (96.4
   HR: 79 (76 - 98) bpm
   BP: 87/55(67) {82/47(60) - 107/67(81)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.3 kg (admission): 48.4 kg
   Height: 67 Inch
             Total In:
                                                                  2,546 mL
                                                                    747 mL
   PO:
             TF:
                                                                  1,212 mL
   IVF:
                                                                  1,244 mL
                                                                    747 mL
   Blood products:
   Total out:
                                                                    975 mL
                                                                    370 mL
   Urine:
                                                                    975 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,571 mL
                                                                    377 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.46/56/112/37/14
   Ve: 5.2 L/min
   PaO2 / FiO2: 224
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   137 K/uL
   83 mg/dL
   0.3 mg/dL
   37 mEq/L
   4.4 mEq/L
   19 mg/dL
   99 mEq/L
   139 mEq/L
   27.1 %
   6.6 K/uL
        [image002.jpg]
                             [**2162-3-6**]  03:41 AM
                             [**2162-3-6**]  12:20 PM
                             [**2162-3-6**]  02:10 PM
                             [**2162-3-6**]  04:09 PM
                             [**2162-3-6**]  05:27 PM
                             [**2162-3-7**]  04:06 AM
                             [**2162-3-7**]  04:13 AM
                             [**2162-3-7**]  03:15 PM
                             [**2162-3-8**]  03:47 AM
                             [**2162-3-8**]  03:51 AM
   WBC
   9.0
   6.6
   Hct
   30.2
   27.1
   Plt
   143
   137
   Cr
   0.4
   0.3
   0.3
   TCO2
   43
   47
   46
   46
   44
   36
   41
   Glucose
   119
   106
   83
   Other labs: PT / PTT / INR:13.5/34.9/1.2, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:40/41, Alk Phos / T Bili:259/0.9,
   Differential-Neuts:77.0 %, Band:2.0 %, Lymph:15.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:225 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR--no significant change
   Microbiology: BAL-Klebsiella in sputum
   Beta-Glucan-neg
   Assessment and Plan
   Patient is with persistent and significant respiratory failure with
   continued need for mechanical ventilatory support and have been
   unsuccesful with extubation attempt and PSV wean has been limited.
   Plan after extensive discussion with patient and family now has
   concluded in move to percutaneous tracheostomy today.
   1)Respiratory Failure-
   For possible pneumonia and known pneumonia
   -Vanco/[**Last Name (un) **]/Vori to continue with 14 day course suggested
   -Will move to tracheostomy today
   -Will hope to wean to trach mask trial at earliest possible time
   2)BMT-
   GVHD -Cellcept/Bactim prophylaxis
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   Arterial Line - [**2162-3-3**] 10:14 PM
   20 Gauge - [**2162-3-3**] 10:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2162-03-09 11:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2162-3-8**] 01:51 PM
   A/C overnight and move to PSV this morning
   Screening for rehab started
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2162-3-7**] 03:00 AM
   Cefipime - [**2162-3-7**] 06:00 AM
   Voriconazole - [**2162-3-7**] 08:00 PM
   Vancomycin - [**2162-3-8**] 08:19 AM
   Meropenem - [**2162-3-9**] 05:58 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-3-9**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2162-3-9**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: midl tightness in neck area
   Flowsheet Data as of  [**2162-3-9**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 89 (59 - 92) bpm
   BP: 121/72(92) {79/48(59) - 124/78(97)} mmHg
   RR: 25 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.3 kg (admission): 48.4 kg
   Height: 67 Inch
             Total In:
                                                                  1,677 mL
                                                                    444 mL
   PO:
             TF:
   IVF:
                                                                  1,617 mL
                                                                    444 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                    490 mL
   Urine:
                                                                  1,020 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    657 mL
                                                                    -46 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 350 (0 - 350) mL
   Vt (Spontaneous): 288 (227 - 419) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 105
   PIP: 18 cmH2O
   Plateau: 19 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/65/177/30/6
   Ve: 4.7 L/min
   PaO2 / FiO2: 354
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   141 K/uL
   71 mg/dL
   0.3 mg/dL
   30 mEq/L
   4.3 mEq/L
   15 mg/dL
   100 mEq/L
   138 mEq/L
   26.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2162-3-6**]  02:10 PM
                             [**2162-3-6**]  04:09 PM
                             [**2162-3-6**]  05:27 PM
                             [**2162-3-7**]  04:06 AM
                             [**2162-3-7**]  04:13 AM
                             [**2162-3-7**]  03:15 PM
                             [**2162-3-8**]  03:47 AM
                             [**2162-3-8**]  03:51 AM
                             [**2162-3-8**]  08:51 PM
                             [**2162-3-9**]  04:04 AM
   WBC
   9.0
   6.6
   7.3
   Hct
   30.2
   27.1
   26.8
   Plt
   143
   137
   141
   Cr
   0.4
   0.3
   0.3
   0.3
   TCO2
   46
   46
   44
   36
   41
   36
   Glucose
   119
   106
   83
   71
   Other labs: PT / PTT / INR:13.5/34.9/1.2, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:40/41, Alk Phos / T Bili:259/0.9,
   Differential-Neuts:77.0 %, Band:2.0 %, Lymph:15.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:225 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR-
   Assessment and Plan
   38 yo male with significant GVHD and obliterative bronchiolitis now
   with tracheostomy for chronic ventilatory failure completed and rehab
   screening being pursued.
   1) Respiratory Failure-
   Pneumonia--Klebsiella--on Meropenem
   Sedation-Versed/Fentanyl to discontinue today and will use PRN for
   anxiety
   -Trial on trach mask trials intermittently
   -Screening for rehab and will need to discuss placement location with
   family
   2)GVHD-
   -Pred/Myophenilate/bactrim all in place
   -Acyclovir following BMTin place
   ICU Care
   Nutrition: Tube Feeds to continue
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   Arterial Line - [**2162-3-3**] 10:14 PM
   20 Gauge - [**2162-3-3**] 10:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2162-03-10 11:44:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2162-3-9**] 12:02 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2162-3-7**] 08:00 PM
   Vancomycin - [**2162-3-8**] 08:19 AM
   Meropenem - [**2162-3-10**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-3-10**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2162-3-10**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, rare
   Flowsheet Data as of  [**2162-3-10**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 106 (74 - 106) bpm
   BP: 106/70(79) {84/51(58) - 114/80(87)} mmHg
   RR: 18 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.3 kg (admission): 48.4 kg
   Height: 67 Inch
             Total In:
                                                                  1,707 mL
                                                                    525 mL
   PO:
             TF:
                                                                    514 mL
   IVF:
                                                                  1,033 mL
                                                                    525 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                  1,040 mL
   Urine:
                                                                  1,285 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    422 mL
                                                                   -515 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PPS
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 354 (244 - 1,282) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 103
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 5.4 L/min
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   166 K/uL
   66 mg/dL
   0.2 mg/dL
   24 mEq/L
   3.6 mEq/L
   13 mg/dL
   108 mEq/L
   142 mEq/L
   27.2 %
   5.5 K/uL
        [image002.jpg]
                             [**2162-3-6**]  04:09 PM
                             [**2162-3-6**]  05:27 PM
                             [**2162-3-7**]  04:06 AM
                             [**2162-3-7**]  04:13 AM
                             [**2162-3-7**]  03:15 PM
                             [**2162-3-8**]  03:47 AM
                             [**2162-3-8**]  03:51 AM
                             [**2162-3-8**]  08:51 PM
                             [**2162-3-9**]  04:04 AM
                             [**2162-3-10**]  05:19 AM
   WBC
   9.0
   6.6
   7.3
   5.5
   Hct
   30.2
   27.1
   26.8
   27.2
   Plt
   143
   137
   141
   166
   Cr
   0.4
   0.3
   0.3
   0.3
   0.2
   TCO2
   46
   44
   36
   41
   36
   Glucose
   119
   106
   83
   71
   66
   Other labs: PT / PTT / INR:13.5/34.9/1.2, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:40/41, Alk Phos / T Bili:259/0.9,
   Differential-Neuts:77.0 %, Band:2.0 %, Lymph:15.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:225 IU/L,
   Ca++:6.6 mg/dL, Mg++:1.5 mg/dL, PO4:1.5 mg/dL
   Imaging: None new
   Assessment and Plan
   38 yo male s/p BMT with chronic hypercarbic respiratory failure,
   obliterative bronchiolitis, aspiration and Klebsiella pneumonia now
   with tracheostomy placed and with increasing duration of time off of
   ventilator support following tracheostomy placement.
   1)Respiratory Failure-
   -Meropenem for known klebsiella pneumonia (Day [**4-1**])
   -Will continue with PSV and move to trach mask trial as possible
will
   have caution today with tube removal and possible aspiration
   -Continue with Prednisone for treatment of obliterative bronchiolitis
   -Discharge planning for [**Hospital3 634**] Hospital
   ICU Care
   Nutrition: Will need feeding tube replaced
via IR
for post pyloric
   Glycemic Control:
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   Prophylaxis:
   DVT: Hepain SQ
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2162-03-11 11:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Feeding tube replaced
   -Patient with continued PSV support and unable to move to trach mask
   with desaturation noted
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2162-3-11**] 06:05 AM
   Vancomycin - [**2162-3-11**] 08:15 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2162-3-10**] 01:50 PM
   Pantoprazole (Protonix) - [**2162-3-11**] 08:18 AM
   Heparin Sodium (Prophylaxis) - [**2162-3-11**] 08:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-3-11**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 89 (89 - 122) bpm
   BP: 103/68(76) {73/47(54) - 128/98(105)} mmHg
   RR: 7 (7 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.3 kg (admission): 48.4 kg
   Height: 67 Inch
             Total In:
                                                                  1,701 mL
                                                                  1,278 mL
   PO:
             60 mL
   TF:
                                                                    311 mL
                                                                    525 mL
   IVF:
                                                                  1,390 mL
                                                                    643 mL
   Blood products:
   Total out:
                                                                  2,540 mL
                                                                  1,115 mL
   Urine:
                                                                  2,540 mL
                                                                  1,115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -839 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 261 (261 - 359) mL
   PS : 12 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: ///32/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   216 K/uL
   118 mg/dL
   0.3 mg/dL
   32 mEq/L
   4.3 mEq/L
   12 mg/dL
   102 mEq/L
   140 mEq/L
   31.6 %
   8.6 K/uL
        [image002.jpg]
                             [**2162-3-6**]  05:27 PM
                             [**2162-3-7**]  04:06 AM
                             [**2162-3-7**]  04:13 AM
                             [**2162-3-7**]  03:15 PM
                             [**2162-3-8**]  03:47 AM
                             [**2162-3-8**]  03:51 AM
                             [**2162-3-8**]  08:51 PM
                             [**2162-3-9**]  04:04 AM
                             [**2162-3-10**]  05:19 AM
                             [**2162-3-11**]  04:54 AM
   WBC
   9.0
   6.6
   7.3
   5.5
   8.6
   Hct
   30.2
   27.1
   26.8
   27.2
   31.6
   Plt
   143
   137
   141
   166
   216
   Cr
   0.3
   0.3
   0.3
   0.2
   0.3
   TCO2
   46
   44
   36
   41
   36
   Glucose
   106
   83
   71
   66
   118
   Other labs: PT / PTT / INR:11.8/30.9/1.0, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:50/60, Alk Phos / T Bili:434/0.9,
   Differential-Neuts:77.0 %, Band:2.0 %, Lymph:15.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:225 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR--Trach in place, no change in pulmonary parenchyma--with
   near resolution of RLL opacity.
   Assessment and Plan
   38 yo male with persistent ventilatory failure in the setting of
   obliterative bronchiolotis following BMT and now with continued and
   prolonged ventilator weaning underway with desire to provide transition
   to [**Hospital1 632**] for continued ventilator wean.
   1)Respiratory Failure-Acute and Chronic
   -Low grade temperature
   -Will continue with Meropenem for known kelbsiella pneumonia based upon
   rapid resolution of fever and no evolution of infiltrate with Meropenem
   dominantly treating known RLL organisms.
   -continue voriconazole in the setting of significnat pulmonary
   infiltrate which had had limited resolution with previous
   anti-microbials
   -To maintain PSV support for now
   -WIll move to trach mask trials and PMV for speech when possible.
   -Will move to rehab facility today.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2162-3-11**] 04:11 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2162-03-13 11:52:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure s/p trach [**3-8**]
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerating short-term trach collar trials
   Ambulated with assistance this morning in ICU
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-3-11**] 08:15 AM
   Voriconazole - [**2162-3-11**] 09:26 PM
   Acyclovir - [**2162-3-12**] 08:30 PM
   Meropenem - [**2162-3-13**] 05:57 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-3-13**] 08:46 AM
   Heparin Sodium (Prophylaxis) - [**2162-3-13**] 08:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-3-13**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 105 (93 - 117) bpm
   BP: 106/65(74) {90/52(61) - 119/80(93)} mmHg
   RR: 18 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.3 kg (admission): 48.4 kg
   Height: 67 Inch
             Total In:
                                                                  2,169 mL
                                                                    943 mL
   PO:
             TF:
                                                                  1,089 mL
                                                                    501 mL
   IVF:
                                                                    780 mL
                                                                    442 mL
   Blood products:
   Total out:
                                                                  2,615 mL
                                                                    385 mL
   Urine:
                                                                  2,615 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -446 mL
                                                                    558 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 237 (237 - 313) mL
   PS : 12 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 140
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///37/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   227 K/uL
   89 mg/dL
   0.2 mg/dL
   37 mEq/L
   4.1 mEq/L
   18 mg/dL
   102 mEq/L
   145 mEq/L
   27.9 %
   6.5 K/uL
        [image002.jpg]
                             [**2162-3-7**]  04:13 AM
                             [**2162-3-7**]  03:15 PM
                             [**2162-3-8**]  03:47 AM
                             [**2162-3-8**]  03:51 AM
                             [**2162-3-8**]  08:51 PM
                             [**2162-3-9**]  04:04 AM
                             [**2162-3-10**]  05:19 AM
                             [**2162-3-11**]  04:54 AM
                             [**2162-3-12**]  04:34 AM
                             [**2162-3-13**]  03:09 AM
   WBC
   6.6
   7.3
   5.5
   8.6
   8.6
   6.5
   Hct
   27.1
   26.8
   27.2
   31.6
   29.2
   27.9
   Plt
   137
   141
   166
   [**Telephone/Fax (3) 11926**]
   Cr
   0.3
   0.3
   0.2
   0.3
   0.3
   0.2
   TCO2
   44
   36
   41
   36
   Glucose
   83
   71
   66
   118
   99
   89
   Other labs: PT / PTT / INR:12.0/30.0/1.0, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:43/55, Alk Phos / T Bili:400/0.7,
   Differential-Neuts:77.0 %, Band:2.0 %, Lymph:15.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:251 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Secondary to GVH,
   bronchiolitis, recent pneumonia.   Now has trach.  Tolerating
   intermittent trach collar trials.  Ambulated slowly this morning with
   assistance.  Slow prednisone taper. Continue MDIs.  On bactrim
   prophylaxis.  Completing course of meropenim for Klebsiella
   pneumonia.
 ANEMIA, OTHER: Hct stable.  Checking daily CBC, active type and
   screen.
 ALTERATION IN NUTRITION:  Tube feeds at goal.
 CIRRHOSIS/ACITES:  Secondary to GVH.  LFTs stable.
   Else agree with detailed assessment and plan as per [**Hospital **] medical
   resident's note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes

2162-03-15 12:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   GVHD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with continued PSV support
90 minutes of trach collar
   tolerated
   -Low grade fever to 99.8 noted
   -Patient tolerant of negative fluid balance
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2162-3-12**] 08:30 PM
   Meropenem - [**2162-3-14**] 12:00 PM
   Voriconazole - [**2162-3-15**] 07:43 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-3-15**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2162-3-15**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 107 (91 - 120) bpm
   BP: 112/80(87) {97/63(73) - 129/90(100)} mmHg
   RR: 23 (17 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.3 kg (admission): 48.4 kg
   Height: 67 Inch
             Total In:
                                                                  1,783 mL
                                                                    664 mL
   PO:
             TF:
                                                                  1,084 mL
                                                                    536 mL
   IVF:
                                                                    589 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    770 mL
   Urine:
                                                                  1,270 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    513 mL
                                                                   -106 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 221 (221 - 275) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 116
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 4.5 L/min
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   271 K/uL
   89 mg/dL
   0.2 mg/dL
   39 mEq/L
   4.6 mEq/L
   18 mg/dL
   103 mEq/L
   144 mEq/L
   30.1 %
   6.0 K/uL
        [image002.jpg]
                             [**2162-3-8**]  03:47 AM
                             [**2162-3-8**]  03:51 AM
                             [**2162-3-8**]  08:51 PM
                             [**2162-3-9**]  04:04 AM
                             [**2162-3-10**]  05:19 AM
                             [**2162-3-11**]  04:54 AM
                             [**2162-3-12**]  04:34 AM
                             [**2162-3-13**]  03:09 AM
                             [**2162-3-14**]  06:25 AM
                             [**2162-3-15**]  04:24 AM
   WBC
   6.6
   7.3
   5.5
   8.6
   8.6
   6.5
   6.3
   6.0
   Hct
   27.1
   26.8
   27.2
   31.6
   29.2
   27.9
   29.0
   30.1
   Plt
   137
   141
   166
   [**Telephone/Fax (2) 11933**]71
   Cr
   0.3
   0.3
   0.2
   0.3
   0.3
   0.2
   0.2
   TCO2
   41
   36
   Glucose
   83
   71
   66
   118
   99
   89
   89
   Other labs: PT / PTT / INR:11.8/26.1/1.0, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:43/55, Alk Phos / T Bili:400/0.7,
   Differential-Neuts:77.0 %, Band:2.0 %, Lymph:15.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:251 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Abdominal Ultrasound
no change in ascites
   Assessment and Plan
   38 yo male s/p BMT with severe impairment in effective venilation with
   obliterative bronchioliits and persistent respiratory failure.  He has
   had rituxan started for possible aid in managment of GVHD and has been
   able to tolerate relative minimum of pressure support now with
   tracheostomy in place.
   1)Respiratory Failure--Acute and Chronic
   -PSV 12/5
   -Move to trach mask trial as needed
   -Speech in to aid with PMV trial and tolerance
   -Move to vent weaning facility today.
   -Prednisone 20mg/d/Cellcept
   -Voriconazole/Meropenem
   -Albuterol
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2162-3-15**] 07:01 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   Prophylaxis:
   DVT: Hep Sq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
for prolonged
   ventilator weaning process
   Total time spent: 35 minutes

2162-03-16 10:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2162-3-15**] 09:23 AM
   abdominal--Spironolactone increase for management of ascites.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2162-3-15**] 12:03 PM
   Acyclovir - [**2162-3-16**] 07:34 AM
   Voriconazole - [**2162-3-16**] 07:34 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-3-16**] 07:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2162-3-16**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 117 (96 - 131) bpm
   BP: 126/99(104) {89/60(68) - 126/102(105)} mmHg
   RR: 18 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 42.9 kg (admission): 48.4 kg
   Height: 67 Inch
             Total In:
                                                                  1,408 mL
                                                                    480 mL
   PO:
             TF:
                                                                  1,088 mL
                                                                    470 mL
   IVF:
                                                                    320 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    640 mL
   Urine:
                                                                  1,410 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -2 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 235 (235 - 511) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 136
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: ///42/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Distended
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   258 K/uL
   89 mg/dL
   0.2 mg/dL
   42 mEq/L
   4.7 mEq/L
   16 mg/dL
   102 mEq/L
   145 mEq/L
   29.6 %
   6.3 K/uL
        [image002.jpg]
                             [**2162-3-8**]  03:51 AM
                             [**2162-3-8**]  08:51 PM
                             [**2162-3-9**]  04:04 AM
                             [**2162-3-10**]  05:19 AM
                             [**2162-3-11**]  04:54 AM
                             [**2162-3-12**]  04:34 AM
                             [**2162-3-13**]  03:09 AM
                             [**2162-3-14**]  06:25 AM
                             [**2162-3-15**]  04:24 AM
                             [**2162-3-16**]  02:59 AM
   WBC
   7.3
   5.5
   8.6
   8.6
   6.5
   6.3
   6.0
   6.3
   Hct
   26.8
   27.2
   31.6
   29.2
   27.9
   29.0
   30.1
   29.6
   Plt
   141
   166
   216
   [**Telephone/Fax (3) **]
   271
   258
   Cr
   0.3
   0.2
   0.3
   0.3
   0.2
   0.2
   0.2
   TCO2
   41
   36
   Glucose
   71
   66
   118
   99
   89
   89
   89
   Other labs: PT / PTT / INR:11.8/26.1/1.0, CK / CKMB /
   Troponin-T:31/4/0.02, ALT / AST:43/55, Alk Phos / T Bili:400/0.7,
   Differential-Neuts:77.0 %, Band:2.0 %, Lymph:15.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:251 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR-
   Assessment and Plan
   38 yo male with GVHD and obliterative bronchiolitis now with persistent
   respiratory failure and moving to chronic ventilator weaning facility
   for care at this time. We have limitation to weaning of obstructive
   lung disease---he has had some substantial limitation in capacity for
   expiratory flow and with tachypnea this may be made worse with dynamic
   hyperinflation.  This is further complicated by some mild retriction
   from abdominal distention and mild ascites which we hope to have
   response to diuretics with continued treatment.
   1)Respiratory Failure-
   -continue with PSV
   -Trach mask trial as tolerated
   -Suction as needed
   _Continue with GVHD Rx
   [**Hospital 11957**] rehab today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2162-3-16**] 05:04 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2162-2-17**] 12:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 33 minutes